US05523315
A stirred solution of glycine methyl ester hydrochloride (2.51 g, 20 mmol) in anhydrous MeOH (30 was cooled to 0°. Sodium cyanoborohydride (880 mg, 14 mmol) was added to the cooled solution, followed by the dropwise addition over 5 min of cyclohexanecarboxaldehyde (2.42 mL, 20 mmol). The mixture was allowed to come to room temperature and then stirred for 2 h. THF (40 mL), a saturated aqueous solution of NaHCO3 (30 mL) and di-tert-butyl dicarbonate (4.36 g, 20 mmol) were added serially to the mixture. The mixture was stirred vigorously for 2 h. Thereafter, the mixture was diluted with EtOAc. The organic phase was separated, washed with H2O (3×) and brine (1×), dried (Na2SO4) and concentrated to dryness under reduced pressure. The oily residue was purified by chromatography (SiO2, eluent: EtOAc-hexane, 1:3) to give 2-[N-tert-butyloxycarbonyl-N-(cyclohexylmethyl)amino]acetic acid methyl ester as a colorless oil (4.56 g, 80%); 1H NMR(CDCl3) (approximately a 1:1 mixture of rotamers) δ3.94 (s,1H), 3.85 (s,1H), 3.725 and 3.721 (s,3H), 3.09 (dd, J=6.2 Hz,7.1 Hz, 2H), 1.75-1.55 (broad m,6H), 1.46 and 1.41 (s,9H), 1.40-1.05 (m,3H), 1.02-0.75 (broad m,2H).

reactant | glycine methyl ester hydrochloride | 20 mmol, 2.51 g | Cl.COC(CN)=O
reactant | Sodium cyanoborohydride | 14 mmol, 880 mg | C(#N)[BH3-].[Na+]
reactant | cyclohexanecarboxaldehyde | 20 mmol, 2.42 mL | C1(CCCCC1)C=O | C7H12O
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 20 mmol, 4.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-[N-tert-butyloxycarbonyl-N-(cyclohexylmethyl)amino]acetic acid methyl ester | 4.56 g, 80% | COC(CN(CC1CCCCC1)C(=O)OC(C)(C)C)=O | C15H27NO4
